US07932272B2
(3-Phenylsulfanyl-phenyl)-methanol
3-Phenylsulfanyl-benzaldehyde described in Preparation Example 92 (321 mg, 1.49 mmol) was dissolved in ethanol (6 mL), sodium borohydride (113 mg, 2.98 mmol) was added thereto at 0° C., followed by stirring at room temperature for 3 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1), and the title compound (220 mg, 1.02 mmol, 68%) was obtained as a colorless oil.

reactant | 3-Phenylsulfanyl-benzaldehyde | C1(=CC=CC=C1)SC=1C=C(C=O)C=CC1 | C13H10OS
reactant | sodium borohydride | 2.98 mmol, 113 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | (3-Phenylsulfanyl-phenyl)-methanol | 1.02 mmol, 220 mg, 68% | C1(=CC=CC=C1)SC=1C=C(C=CC1)CO | C13H12OS
